US09084794B2
b) 2-bromo-2-(4-(quinolin-7-yl)phenyl)acetonitrile
A solution of 2-(4-(quinolin-7-yl)phenyl)acetonitrile (0.409 mmol) in carbon tetrachloride (2 mL) was degassed for three minutes with a stream of nitrogen. The solution was then treated with N-bromosuccinimide (0.450 mmol) and azobisisobutyronitrile (0.020 mmol). The reaction vessel was purged with nitrogen and sealed and the mixture was allowed to stir overnight in a 75° C. oil bath. The reaction mixture was then directly loading onto silica gel and concentrated in vacuo. Purification of the residue by silica gel chromatography (0-80% ethyl acetate/hexanes) afforded the title compound (30 mg, 17%). MS(ES)+ m/e 322.9/325.0 [M+H]+ (bromide isotope pattern).

reactant | 2-(4-(quinolin-7-yl)phenyl)acetonitrile | 0.409 mmol | N1=CC=CC2=CC=C(C=C12)C1=CC=C(C=C1)CC#N | C17H12N2
reactant | N-bromosuccinimide | 0.450 mmol | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | azobisisobutyronitrile | 0.020 mmol | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | carbon tetrachloride | 2 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-bromo-2-(4-(quinolin-7-yl)phenyl)acetonitrile | 30 mg, 17% | BrC(C#N)C1=CC=C(C=C1)C1=CC=C2C=CC=NC2=C1 | C17H11BrN2
